US07423030B2
37.2. 1-Chloro-7-fluoro-4-(4-fluorophenyl)phthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 7-fluoro-4-(4-fluorophenyl)-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 7-fluoro-4-(4-fluorophenyl)-2H-phthalazin-1-one | FC1=CC=C2C(=NNC(C2=C1)=O)C1=CC=C(C=C1)F | C14H8F2N2O
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-7-fluoro-4-(4-fluorophenyl)phthalazine | ClC1=NN=C(C2=CC=C(C=C12)F)C1=CC=C(C=C1)F | C14H7ClF2N2
